US04124640
In accordance with the process of Example 2, 150 ml of diethyleneglycol dimethyl ether, 19.3 g (0.3 mole) of ethyl chloride, 42.2 g (0.22 mole) of sodium methylate in 28% methanol solution and 21.8 g (0.2 mole) of p-hydroxyaniline were charged in the autoclave and the reaction was carried out at 80° C. for 6 hours with stirring to obtain 19.7 g of p-ethoxyaniline having a boiling point of 135° to 136° C./24 mmHg. (yield: 72.1%).

reactant | diethyleneglycol dimethyl ether | 150 ml | COCCOCCOC | C6H14O3
reactant | ethyl chloride | 0.3 mole, 19.3 g | C(C)Cl | C2H5Cl
reactant | sodium methylate | 0.22 mole, 42.2 g | C[O-].[Na+]
reactant | p-hydroxyaniline | 0.2 mole, 21.8 g | OC1=CC=C(N)C=C1 | C6H7NO
solvent | methanol | CO | CH4O
product | p-ethoxyaniline | 19.7 g, yield: 72.1% | C(C)OC1=CC=C(N)C=C1 | C8H11NO
